US06320050B1
A solution of 3-cyclopentyl-2-(4-fluoro-3-trifluoromethyl-phenyl)-propionic acid (304 mg, 1.0 mmol) in methylene chloride (10 mL) was cooled to 0° C. and then treated with a 2.OM solution of oxalyl chloride in methylene chloride (0.6 mL, 1.2 mmol) and a few drops of N,N-dimethylformamide. The reaction mixture was stirred at 0° C. for 15 min and at 25° C. for 24 h. The reaction mixture was then treated with 2-amino-thiazole (175 mg, 1.75 mmol) and N,N-diisopropylethylamine (0.4 mL, 2.41 mmol). This solution was stirred at 25° C. for 48 h. At this time, the reaction was concentrated in vacuo. High pressure liquid chromatography (Chromegasphere SI-60, 10 μM, 60Å, 25 cm×23 cm ID, 60/40 heptane/ethyl acetate) afforded 3-cyclopentyl-2-(4-fluoro-3-trifluoromethyl-phenyl)-N-thiazol-2-yl-propionamide (326 mg, 84.5%) as a light yellow solid: mp 125-127° C.; EI-HRMS m/e calcd for C18H18F4N2OS (M+) 386.1076, found 386.1086.

reactant | 3-cyclopentyl-2-(4-fluoro-3-trifluoromethyl-phenyl)-propionic acid | 1.0 mmol, 304 mg | C1(CCCC1)CC(C(=O)O)C1=CC(=C(C=C1)F)C(F)(F)F | C15H16F4O2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-amino-thiazole | 1.75 mmol, 175 mg | NC=1SC=CN1 | C3H4N2S
reactant | N,N-diisopropylethylamine | 2.41 mmol, 0.4 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | a few drops | CN(C=O)C | C3H7NO
solvent | methylene chloride | 1.2 mmol, 0.6 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-2-(4-fluoro-3-trifluoromethyl-phenyl)-N-thiazol-2-yl-propionamide | 326 mg, 84.5% | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC(=C(C=C1)F)C(F)(F)F | C18H18F4N2OS
